US09388189B2
(S)-2-(1-((6-Amino-5-(3-methoxybenzyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (250 mg, 0.57 mmol) was treated with 2-(3-methoxybenzyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (211 mg, 0.85 mmol), sodium carbonate (2M, 1.28 mL, 2.56 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (70 mg, 0.09 mmol) according to the method described in Example 3 to give 70 mg (26% yield) of the title compound as a solid. Purity 100%.

reactant | (S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.57 mmol, 250 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)Br | C19H18BrN7O
reactant | 2-(3-methoxybenzyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.85 mmol, 211 mg | COC=1C=C(CB2OC(C(O2)(C)C)(C)C)C=CC1 | C14H21BO3
reactant | sodium carbonate | 2.56 mmol, 2M, 1.28 mL | C([O-])([O-])=O.[Na+].[Na+]
product | (S)-2-(1-((6-Amino-5-(3-methoxybenzyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 70 mg, 26% yield | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)CC2=CC(=CC=C2)OC | C27H27N7O2
